US07829560B2
2-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide (Compound B44).
Compound is formed by reacting 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide and 1,4-dioxa-8-aza-spiro[4.5]decane under conditions described in general procedure A. 1H NMR (300 MHz, DMSO-d6) δ 10.29 (s, 1H), 8.29 (d, 1H), 8.20 (m, 1H), 7.88 (m, 1H), 7.59 (m, 2H), 7.42 (d, 2H), 7.19 (d, 1H), 7.01 (d, 1H), 4.31 (t, 2H), 3.95 (s, 4H), 3.75 (m, 4H), 3.61 (m, 4H), 2.88 (t, 2H), 2.60 (m, 4H), 2.66 (m, 4H). MS: 519.3 (M+1).

reactant | 2-chloro-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | ClC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CN1 | C22H22ClN3O3
reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | O1CCOC12CCNCC2 | C7H13NO2
product | 2-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-isonicotinamide | O1CCOC12CCN(CC2)C=2C=C(C(=O)NC1=CC=C(C3=CC=CC=C13)OCCN1CCOCC1)C=CN2 | C29H34N4O5
